US07592453B2
tert-butyl (3aR*,4S*,9bR)-4-phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate
Benzaldehyde (2.92 g, 28 mmol), aniline (2.56 g, 28 mmol), tert-butyl 2,3-dihydro-1H-pyrrole-1-carboxylate (3.4 g, 25 mmol) and Dy(OTf)3 (0.61 g, 1.38 mmol) were stirred in acetonitrile (50 ml) at room temperature for 2 hrs. The reaction mixture was concentrated under reduced pressure, water was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried (anhydrous MgSO4), and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography using silica gel (150 g), and eluted with hexane-ethyl acetate (4:1, v/v). The title compound (3aR*,4R*,9bR*) (2.7 g, 31%) was obtained as an amorphous form from the first eluted fraction.

reactant | Benzaldehyde | 28 mmol, 2.92 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | aniline | 28 mmol, 2.56 g | NC1=CC=CC=C1 | C6H7N
reactant | tert-butyl 2,3-dihydro-1H-pyrrole-1-carboxylate | 25 mmol, 3.4 g | N1(CCC=C1)C(=O)OC(C)(C)C | C9H15NO2
reactant | Dy(OTf)3 | 1.38 mmol, 0.61 g | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Dy+3]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | tert-butyl (3aR*,4S*,9bR)-4-phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate | 2.7 g, 31% | C1(=CC=CC=C1)[C@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)OC(C)(C)C | C22H26N2O2
